US05684204
1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(methylsulfanyl)ethanone
2,6-di-t-butylphenol (1.7680 g, 8.66mmol) is placed in a flame dried RBF, and 2-(methylthio)acetic acid (0.80 mL, 9.19 mmol) is then added. This is then blanketed with argon and TFAA (1.30 mL, 9.20 mmol) is added via syringe at a fast rate. A small amount of CH2C12 is added to aid in mixing. The reaction quickly turns violet and darkens. It is followed by TLC using 10% EtOAc in hexanes. After 5 h, the reaction is carefully poured into 70 mL saturated bicarbonate and extracted with 2 portions of Et2O. The combined organics are washed with brine, filtered through cotton, dried over molecular sieves, then concentrated on a rotavap and dried under vacuum. This gives a white solid which can be crystallized from EtOAc/hexanes to give orange crystals, mp=108.5°-109.5° C.

reactant | 2,6-di-t-butylphenol | 8.66mmol, 1.7680 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | 2-(methylthio)acetic acid | 9.19 mmol, 0.80 mL | CSCC(=O)O | C3H6O2S
reactant | TFAA | 9.20 mmol, 1.30 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | bicarbonate | 70 mL | C([O-])(O)=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(methylsulfanyl)ethanone | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CSC)=O | C17H26O2S
